US07727986B2
4-(2-chloro-pyrimidin-4-yloxy)-2.5-dimethyl-phenylamine-Process (c)-Compound (VI) to Compound (V)
A solution of 7.55 g (55 mmol) 4-amino-2,5-dimethylphenol and 2.4 g NaOH (2M) in 30 ml water were added dropwise to a solution of 7.45 g (50.0 mmol) of 2,4-dichloropyrimidine in 50 ml of acetone. The reaction mixture was stirred for 20 h at ambient temperature. After concentration in vacuo and addition of 150 ml water the formed precipitate was filtered by suction. Yield 10.6 g (75%) with a purity of 88% log P (pH=2.3)=1.37.

reactant | 4-amino-2,5-dimethylphenol | 55 mmol, 7.55 g | NC1=CC(=C(C=C1C)O)C | C8H11NO
reactant | NaOH | 2M, 2.4 g | [OH-].[Na+]
reactant | 2,4-dichloropyrimidine | 50.0 mmol, 7.45 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | water | 30 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-(2-chloro-pyrimidin-4-yloxy)-2.5-dimethyl-phenylamine | ClC1=NC=CC(=N1)OC1=CC(=C(C=C1C)N)C | C12H12ClN3O
